US04329470
To a stirred solution of 11.8 g of 2-(hydroxyimino)-N-(4-methoxyphenyl)-3-oxobutanamide in 30 ml of acetic acid and 10 ml of acetic anhydride at 20°-30° C. is added 10 g of zinc dust and the mixture is stirred for 1 hour. Water (150 ml) is added, the mixture is stirred for 2 hours, and the zinc is removed by filtration. The solvent is evaporated from the filtrate under reduced pressure and the resulting residue is recrystallized from methanol to give 2-acetylamino-N-(4-methoxyphenyl)-3-oxobutanamide.

reactant | 2-(hydroxyimino)-N-(4-methoxyphenyl)-3-oxobutanamide | 11.8 g | ON=C(C(=O)NC1=CC=C(C=C1)OC)C(C)=O | C11H12N2O4
reactant | Water | 150 ml | O | H2O
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc | 10 g | [Zn] | Zn
product | 2-acetylamino-N-(4-methoxyphenyl)-3-oxobutanamide | C(C)(=O)NC(C(=O)NC1=CC=C(C=C1)OC)C(C)=O | C13H16N2O4
